USH0000963
Synthesis of 5-phenyl-3-hydroxyisoxazole
40 g of sodium hydroxide was dissolved in 200 ml of water and 300 ml of ethanol. 69.5 g of hydroxylamine hydrochloride was added to the solution. A mixed solution of 2N sodium hydroxide and a 3:2 mixture of ethanol and water was added to the solution so that the pH thereof was adjusted to 10.0. 192 g of ethyl benzoylacetate and a mixed solution of 2N sodium hydroxide and a 3:2 mixture of ethanol and water were added dropwise to the solution at the same time under cooling with ice in such a manner that the pH thereof was 10±0.3. After the dropwise addition was finished, the solution was stirred at room temperature for 3 hours. The reaction mixture was then poured into a mixture of 500 g of conc. hydrochloric acid and 500 g of ice. 2.5 l of ethanol was added to the reaction mixture. The reaction mixture was heated under reflux for 3 hours. 2 l of water was added to cool the solution. The resulting crystals were filtered off, washed with water, and dried. (Yield: 98 g (61%); m.p.: 150°-151° C.)

reactant | sodium hydroxide | 40 g | [OH-].[Na+]
reactant | hydroxylamine hydrochloride | 69.5 g | Cl.NO
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | ethyl benzoylacetate | 192 g | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | hydrochloric acid | 500 g | Cl | ClH
solvent | water | 200 ml | O | H2O
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 2 l | O | H2O
solvent | ethanol | 2.5 l | C(C)O | C2H6O
product | 5-phenyl-3-hydroxyisoxazole | C1(=CC=CC=C1)C1=CC(=NO1)O | C9H7NO2
